Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],3.61967711672
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:6](=[O:7])[H:8].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.1418936778
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.83934655002
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.91595465298
[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.9037691748900003
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[H:12].[H:1][C:2]([H:3])=[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.1801971866
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]1([H:8])[O:9][C:10]1[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11],1.86788343463
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12],3.1246584260500003
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13],-1.86445658626
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],3.60910508444
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-1.80394035069
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5],4.12417716809
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4],1.41074438185
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],1.65247542078
[H:6].[O:1]=[C:2]=[C:3]([C:4]#[C:5])[O:7][H:8]>>[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8],-4.95334944745
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.17662159887
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]#[C:8][H:9])=[C:11]([H:12])[H:13],2.33761163528
[H:1][O:2][C:3]([C:4]#[C:5][C:7]([H:8])([H:9])[H:10])[O:11][H:12].[H:6]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-3.94697671199
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],2.93746992695
[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.84882561023
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[O:1]=[C:2][H:3],3.645189470330002
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][H:8],-3.87944716226
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.41346096342
[H:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][C:8]=[O:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C@@:5]1([H:6])[O:7][C:8][O:9][C:10]1([H:11])[H:12],-1.41389865004
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[O:1],4.08164007
[C:1][O:2][C:3][C:5]([H:6])=[C:7]=[O:8].[H:4]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8],-3.4697167103699993
[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-1.48585514018
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.68249645886
